datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S:21][H:20].OCCC[NH2+]CC[NH2:10]>>CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S-:21].OCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)C(C)[NH2+:21][H:20].O=C1CC(Sc2ccccc2)[N-:10]1>>CCOC(=O)C(C)[NH2:21].O=C1CC(Sc2ccccc2)[N:10]1[H:20] 10=20;20,21=21",
"CC(=O)CC[N:10]1CCOCC1.c1ccc(-c2cccc[n+:21]2[H:20])[nH+]c1>>CC(=O)CC[N+:10]1([H:20])CCOCC1.c1ccc(-c2cccc[n:21]2)[nH+]c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(CC(C)[NH2:10])cc1OC>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(CC(C)[NH2+:10][H:20])cc1OC 10=20;20,21=21",
"C[Si](C)(C[NH2:10])c1ccccc1.c1c[nH+]c2ccc3ccc[n+:21]([H:20])c3c2c1>>C[Si](C)(C[NH2+:10][H:20])c1ccccc1.c1c[nH+]c2ccc3ccc[n:21]c3c2c1 10=20;20,21=21",
"CCCC[P+:21](CCCC)(CCCC)[H:20].CC[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21>>CCCC[P:21](CCCC)CCCC.CC[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21 10=20;20,21=21",
"FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1.O=S(=O)(Nc1nncs1)c1ccc([NH2:10])cc1>>FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1.O=S(=O)(Nc1nncs1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n:10]cn1C.Cc1cc(-c2cccc[n+:21]2[H:20])nn1C>>CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n+:10]([H:20])cn1C.Cc1cc(-c2cccc[n:21]2)nn1C 10=20;20,21=21",
"NS(=O)(=O)c1ccc(C[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NS(=O)(=O)c1ccc(C[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1nnc([N-:10]S(=O)(=O)c2ccc(O)cc2)s1.N#CCCNC(CC(N)=O)C(=O)[O:21][H:20]>>Cc1nnc([N:10](S(=O)(=O)c2ccc(O)cc2)[H:20])s1.N#CCCNC(CC(N)=O)C(=O)[O-:21] 10=20;20,21=21",
"CC(=Nc1ccccc1O)c1ccccc1[O:21][H:20].c1cc(C(c2ccncc2)(c2ccncc2)[O-:10])ccn1>>CC(=Nc1ccccc1O)c1ccccc1[O-:21].c1cc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])ccn1 10=20;20,21=21",
"CN(C)c1ncc2[nH]c[n:10]c2n1.Nc1c2ccccc2[nH+]c2ccc([O:21][H:20])cc12>>CN(C)c1ncc2[nH]c[n+:10]([H:20])c2n1.Nc1c2ccccc2[nH+]c2ccc([O-:21])cc12 10=20;20,21=21",
"Cc1cc(C)cc(C(=O)[O:21][H:20])c1.c1ccc(-c2cc([O-:10])on2)cc1>>Cc1cc(C)cc(C(=O)[O-:21])c1.c1ccc(-c2cc([O:10][H:20])on2)cc1 10=20;20,21=21",
"CC(=O)c1ccccc1[NH2+:21][H:20].COc1cc(OC)nc([N-:10]S(=O)(=O)c2ccc(O)cc2)n1>>CC(=O)c1ccccc1[NH2:21].COc1cc(OC)nc([N:10](S(=O)(=O)c2ccc(O)cc2)[H:20])n1 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])c(Br)c1.Cc1cccc(C)c1N[N+:21](=C(C#N)C#N)[H:20]>>Cc1ccc(C(=O)[O:10][H:20])c(Br)c1.Cc1cccc(C)c1N[N:21]=C(C#N)C#N 10=20;20,21=21",
"CC(=O)NC1=C(C)N(C)N(c2ccccc2)/C1=[O+:21]/[H:20].CSc1cc2ccccc2[n:10]c1>>CC(=O)NC1=C(C)N(C)N(c2ccccc2)C1=[O:21].CSc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CCC(C)[N:10](C)c1ccccc1.CCCOC(=O)c1ccc([NH2+:21][H:20])cc1>>CCC(C)[N+:10](C)(c1ccccc1)[H:20].CCCOC(=O)c1ccc([NH2:21])cc1 10=20;20,21=21",
"CCC[Se](=O)[O-:10].CCc1cc(Cl)c([O-])c(C(=O)NCC2CCC[N+:21]2(CC)[H:20])c1OC>>CCC[Se](=O)[O:10][H:20].CCc1cc(Cl)c([O-])c(C(=O)NCC2CCC[N:21]2CC)c1OC 10=20;20,21=21",
"CC(C)(C)[NH:10]CC(O)COc1nsnc1N1CCOCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)(C)[NH+:10](CC(O)COc1nsnc1N1CCOCC1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Brc1ccc[n:10]c1.CN1C2CCC(CC2)[N+:21]1(C)[H:20]>>Brc1ccc[n+:10]([H:20])c1.CN1C2CCC(CC2)[N:21]1C 10=20;20,21=21",
"C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O:21][H:20])CC1.C[n+]1ccc(-c2[nH]c3ccccc3[n:10]2)cc1>>C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-:21])CC1.C[n+]1ccc(-c2[nH]c3ccccc3[n+:10]2[H:20])cc1 10=20;20,21=21",
"CNCC[N+:21](C)(CCNC)[H:20].Nc1ccc(S(=O)(=O)[N-:10]c2nccs2)c(Cl)c1>>CNCC[N:21](C)CCNC.Nc1ccc(S(=O)(=O)[N:10](c2nccs2)[H:20])c(Cl)c1 10=20;20,21=21",
"Cc1cccc([N+:21](C)(C)[H:20])c1.OC(c1ccoc1)=[O:10]>>Cc1cccc([N:21](C)C)c1.OC(c1ccoc1)=[O+:10][H:20] 10=20;20,21=21",
"C[C@H]1CC[C@@H]2CCC[N:10]21.C[NH+](C)CCC[N+:21](C)(CCC[NH+](C)C)[H:20]>>C[C@H]1CC[C@@H]2CCC[N+:10]21[H:20].C[NH+](C)CCC[N:21](C)CCC[NH+](C)C 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ccc(O)cn2)[H:20])cc1.O=Cc1ccc(C[NH2:10])o1>>Nc1ccc(S(=O)(=O)[N-:21]c2ccc(O)cn2)cc1.O=Cc1ccc(C[NH2+:10][H:20])o1 10=20;20,21=21",
"COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N+:21]2(C)[H:20].Cc1ccc(S(=O)(=O)[N-:10]C(=O)OCc2ccc([N+](=O)[O-])cc2)cc1>>COC(=O)[C@H]1[C@H]2CC[C@@H](C[C@H]1OC(=O)c1ccccc1)[N:21]2C.Cc1ccc(S(=O)(=O)[N:10](C(=O)OCc2ccc([N+](=O)[O-])cc2)[H:20])cc1 10=20;20,21=21",
"Cc1cc([O-])ccc1[O:21][H:20].Cc1cnc2c(c1)c(C)cc1c(C)cc[n:10]c12>>Cc1cc([O-])ccc1[O-:21].Cc1cnc2c(c1)c(C)cc1c(C)cc[n+:10]([H:20])c12 10=20;20,21=21",
"N#CC(C#N)=[N:10]Nc1ccc([N+](=O)[O-])cc1Cl.c1ccc2c(c1)nnn2[O:21][H:20]>>N#CC(C#N)=[N+:10](Nc1ccc([N+](=O)[O-])cc1Cl)[H:20].c1ccc2c(c1)nnn2[O-:21] 10=20;20,21=21",
"Brc1ccccc1[NH2+:21][H:20].S=C1Oc2ccccc2[N-:10]1>>Brc1ccccc1[NH2:21].S=C1Oc2ccccc2[N:10]1[H:20] 10=20;20,21=21",
